US07834002B2
4-Pentynoic acid (1.03 g) and N-methylpiperazine (1.0 g) was dissolved in 30 mL of DMF, 1.6 g of HOBt was added to the solution at ice temperature under stirring. After the mixture was stirred at same temperature for 15 minutes, additionally 2.3 g of WSC was added, and the solution was stirred at room temperature overnight. The DMF was removed under reduced pressure from the reaction mixture, then water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was removed. The residue was purified by chromatography on silica gel (methylene chloride-methanol-triethylamine 600:20:1) to give 510 mg of 1-(4-methylpiperazin-1-yl)pent-4-yn-1-one as a colorless oil.

reactant | 4-Pentynoic acid | 1.03 g | C(CCC#C)(=O)O | C5H6O2
reactant | N-methylpiperazine | 1.0 g | CN1CCNCC1 | C5H12N2
reactant | HOBt | 1.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 2.3 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-methylpiperazin-1-yl)pent-4-yn-1-one | 510 mg | CN1CCN(CC1)C(CCC#C)=O | C10H16N2O
